US04965359
(a3) Production of methyl-1-[(2-chlorophenyl)methyl]-4-oxo-3-(2-propenyl)-3-piperidine carboxylate
14.60 g (51.8 mmol) of methyl-1-[(2-chlorophenyl)methyl]-4-oxo-3-piperidine carboxylate was dissolved in 40 ml of tert-butanol and warmed to 30° C. Within 2 minutes 6.57 g (58.4 mmol) of potassium tert-butylate in 45 ml of tert-butanol was added. After 15 minutes of stirring, 25 ml of tert-butanol was added once more. Then 6.34 g (51.4 mmol) of allylbromide was added within 10 minutes and stirred for 2 more hours at 30° to 35° C. The reaction mixture was concentrated by evaporation and 70 ml of water and 70 ml of ether were added to the residue. The organic phase was washed with 50 ml of sodium sulfate solution, dried on magnesium sulfate and concentrated by evaporation. The yield was 40.68 g of methyl-1-[(2-chlorophenyl)methyl]-4-oxo-3-(2-propenyl)-3-piperidine carboxylate, which equals 88.1 percent. Data concerning the compound was:

reactant | methyl-1-[(2-chlorophenyl)methyl]-4-oxo-3-piperidine carboxylate | 51.8 mmol, 14.60 g | COC(=O)C1CN(CCC1=O)CC1=C(C=CC=C1)Cl | C14H16ClNO3
reactant | potassium tert-butylate | 58.4 mmol, 6.57 g | CC(C)(C)[O-].[K+]
reactant | allylbromide | 51.4 mmol, 6.34 g | C(C=C)Br | C3H5Br
solvent | tert-butanol | 40 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 45 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 25 ml | C(C)(C)(C)O | C4H10O
product | methyl-1-[(2-chlorophenyl)methyl]-4-oxo-3-(2-propenyl)-3-piperidine carboxylate | COC(=O)C1(CN(CCC1=O)CC1=C(C=CC=C1)Cl)CC=C | C17H20ClNO3
